Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
trauma transfer from OSH, s/p unwitness fall, right rib 
fractures, right pneumothorax, spinal compression fractures 
 
Major Surgical or Invasive Procedure:
placement of right chest tubes done at bedside (x3)
pleurodesis right lung done at bedside  

 
History of Present Illness:
Patient is an ___ year old patient who experienced a witnessed 
fall onto concrete. She had no recollections of the events. She 
craweled into the house and was found by her son. At that time 
she was in respiratory distress and complained of right chest 
pain. She was brought to the ___ and was 
subsequently transferred here. She was found to have a 
pneumothorax on the right and chest tubes were placed at OSH. 
Patient had small abrasions on the right forearm and right knee. 
She was hemodynamically stable on arrival. 
Patient was also found to have compression fractures of L4, L5, 
T6, T7, T9, T12. 

Patient has no prior history of trauma. 
 
Past Medical History:
PMH: 
COPD on O2 at home ranges from ___ LNC
hypertension
hyperlipedemia 
Dementia
Depression
Osteoporosis

PSH:
surgical excision of ___ neuroma
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
PE: 
VS: Tm 98.8, HR 78, BP 132/76, RR 20, O2 sat 98% on 2L/min NC 
gen: WA/WD, NAD 
CV: RRR, no m/r/g 
pulm: CTA b/l 
abdomen: +BS, ND/NT, soft 
extremities: no edema 
right chest: site of chest tube insertion is clean and dry, 
there is no discharge, no edema or erythema, dressing is in 
place 
 
Pertinent Results:
CBC:
___ 04:50AM BLOOD WBC-14.4* RBC-4.48 Hgb-12.3 Hct-37.6 
MCV-84 MCH-27.4 MCHC-32.7 RDW-13.3 Plt ___
___ 01:12AM BLOOD WBC-9.0 RBC-3.36* Hgb-9.5* Hct-29.9* 
MCV-89 MCH-28.3 MCHC-31.8 RDW-13.9 Plt ___
___ 02:07AM BLOOD WBC-9.4 RBC-3.78* Hgb-10.4* Hct-32.0* 
MCV-85 MCH-27.6 MCHC-32.6 RDW-13.5 Plt ___
___ 01:34AM BLOOD WBC-6.6 RBC-3.47* Hgb-9.5* Hct-29.0* 
MCV-84 MCH-27.4 MCHC-32.8 RDW-13.6 Plt ___
___ 01:57AM BLOOD WBC-5.4 RBC-3.87* Hgb-10.5* Hct-32.7* 
MCV-85 MCH-27.1 MCHC-32.1 RDW-14.0 Plt ___
___ 02:29AM BLOOD WBC-5.1 RBC-3.80* Hgb-10.5* Hct-31.8* 
MCV-84 MCH-27.6 MCHC-33.0 RDW-14.0 Plt ___
___ 02:00AM BLOOD WBC-6.1 RBC-3.66* Hgb-9.9* Hct-30.3* 
MCV-83 MCH-27.1 MCHC-32.8 RDW-14.1 Plt ___
___ 06:40AM BLOOD WBC-9.5# RBC-3.83* Hgb-10.8* Hct-32.8* 
MCV-86 MCH-28.1 MCHC-32.8 RDW-14.7 Plt ___
___ 06:45AM BLOOD WBC-15.9*# RBC-4.22 Hgb-11.6* Hct-35.3* 
MCV-84 MCH-27.6 MCHC-32.9 RDW-15.2 Plt ___
___ 07:07AM BLOOD WBC-18.1*# RBC-4.25 Hgb-12.1 Hct-36.4 
MCV-86 MCH-28.4 MCHC-33.1 RDW-15.0 Plt ___
___ 01:44AM BLOOD WBC-8.6# RBC-3.10*# Hgb-8.9*# Hct-26.2*# 
MCV-84 MCH-28.5 MCHC-33.8 RDW-15.3 Plt ___
___ 07:41AM BLOOD Hct-25.5*
___ 02:06PM BLOOD Hct-26.1*
___ 02:02AM BLOOD WBC-10.8 RBC-3.15* Hgb-8.7* Hct-26.9* 
MCV-85 MCH-27.6 MCHC-32.4 RDW-15.9* Plt ___
___ 02:37AM BLOOD WBC-11.0 RBC-3.25* Hgb-9.2* Hct-28.3* 
MCV-87 MCH-28.2 MCHC-32.4 RDW-15.5 Plt ___
___ 01:51AM BLOOD WBC-11.2* RBC-3.29* Hgb-9.0* Hct-28.0* 
MCV-85 MCH-27.5 MCHC-32.3 RDW-15.5 Plt ___
___ 06:45AM BLOOD WBC-10.5 RBC-3.52* Hgb-9.8* Hct-30.7* 
MCV-87 MCH-27.7 MCHC-31.7 RDW-15.8* Plt ___
___ 06:30AM BLOOD WBC-15.1* RBC-2.84* Hgb-8.0* Hct-25.1* 
MCV-88 MCH-28.2 MCHC-31.9 RDW-16.8* Plt ___
___ 07:30PM BLOOD Hct-25.5*
___ 07:05AM BLOOD WBC-13.2* RBC-2.59* Hgb-7.3* Hct-23.6* 
MCV-91 MCH-28.2 MCHC-31.0 RDW-17.6* Plt ___
___ 07:32AM BLOOD Hct-21.3*
___ 09:30PM BLOOD Hct-26.7*#
___ 09:30PM BLOOD Hct-26.7*#
___ 06:50AM BLOOD WBC-11.0 RBC-3.36*# Hgb-9.5*# Hct-30.0* 
MCV-89 MCH-28.3 MCHC-31.7 RDW-17.0* Plt ___
___ 07:25AM BLOOD Hct-27.4*

electrolytes: 
___ 04:50AM BLOOD Glucose-138* UreaN-18 Creat-0.7 Na-140 
K-3.8 Cl-101 HCO3-29 AnGap-14
___ 01:12AM BLOOD Glucose-488* UreaN-21* Creat-0.7 Na-140 
K-6.0* Cl-114* HCO3-25 AnGap-7*
___ 02:07AM BLOOD Glucose-121* UreaN-23* Creat-0.8 Na-142 
K-4.3 Cl-109* HCO3-28 AnGap-9
___ 01:34AM BLOOD Glucose-137* UreaN-23* Creat-0.6 Na-142 
K-4.3 Cl-111* HCO3-24 AnGap-11
___ 01:57AM BLOOD Glucose-103* UreaN-28* Creat-0.7 Na-142 
K-4.5 Cl-109* HCO3-23 AnGap-15
___ 02:29AM BLOOD Glucose-97 UreaN-27* Creat-0.6 Na-140 
K-4.5 Cl-106 HCO3-27 AnGap-12
___ 04:05PM BLOOD Glucose-92 UreaN-22* Creat-0.6 Na-141 
K-3.9 Cl-102 HCO3-31 AnGap-12
___ 02:00AM BLOOD Glucose-104* UreaN-23* Creat-0.5 Na-140 
K-3.7 Cl-102 HCO3-30 AnGap-12
___ 06:40AM BLOOD Glucose-85 UreaN-23* Creat-0.5 Na-141 
K-3.9 Cl-101 HCO3-29 AnGap-15
___ 06:45AM BLOOD Glucose-137* UreaN-25* Creat-0.6 Na-143 
K-3.9 Cl-99 HCO3-32 AnGap-16
___ 07:07AM BLOOD Glucose-137* UreaN-25* Creat-0.6 Na-144 
K-4.4 Cl-100 HCO3-34* AnGap-14
___ 05:55PM BLOOD Glucose-140* UreaN-30* Creat-0.7 Na-142 
K-3.6 Cl-100 HCO3-31 AnGap-15
___ 01:44AM BLOOD Glucose-138* UreaN-29* Creat-0.6 Na-140 
K-3.4 Cl-100 HCO3-33* AnGap-10
___ 02:02AM BLOOD Glucose-155* UreaN-32* Creat-0.5 Na-141 
K-3.9 Cl-104 HCO3-33* AnGap-8
___ 02:37AM BLOOD Glucose-105* UreaN-27* Creat-0.5 Na-139 
K-3.6 Cl-101 HCO3-33* AnGap-9
___ 01:51AM BLOOD Glucose-94 UreaN-22* Creat-0.6 Na-138 
K-3.9 Cl-97 HCO3-34* AnGap-11
___ 06:45AM BLOOD Glucose-87 UreaN-15 Creat-0.6 Na-139 
K-3.6 Cl-98 HCO3-34* AnGap-11
___ 06:30AM BLOOD Glucose-108* UreaN-42* Creat-0.6 Na-139 
K-4.2 Cl-100 HCO3-28 AnGap-15
___ 09:10AM BLOOD Glucose-88 UreaN-29* Creat-0.7 Na-137 
K-3.1* Cl-102 HCO3-26 AnGap-12
___ 07:05AM BLOOD Glucose-88 UreaN-30* Creat-0.5 Na-140 
K-3.8 Cl-108 HCO3-25 AnGap-11
___ 06:20AM BLOOD Glucose-91 UreaN-19 Creat-0.5 Na-138 
K-3.6 Cl-104 HCO3-27 AnGap-11
___ 06:50AM BLOOD Glucose-86 UreaN-18 Creat-0.5 Na-141 
K-4.0 Cl-104 HCO3-29 AnGap-12

___ 01:45PM BLOOD CK(CPK)-1193*
___ 08:55PM BLOOD CK(CPK)-1530*

cardiac enzymes: 
___ 04:50AM BLOOD cTropnT-0.20*
___ 04:50AM BLOOD CK-MB-22*
___ 01:45PM BLOOD CK-MB-33* MB Indx-2.8 cTropnT-0.14*
___ 08:55PM BLOOD CK-MB-32* MB Indx-2.1 cTropnT-0.22*
___ 12:45PM BLOOD CK-MB-7 cTropnT-0.01

electrolytes:
___ 01:12AM BLOOD Calcium-6.7* Phos-2.7 Mg-2.2
___ 02:07AM BLOOD Calcium-7.7* Phos-3.1 Mg-2.5
___ 06:20AM BLOOD Calcium-8.0* Phos-2.2* Mg-2.4
___ 06:50AM BLOOD Calcium-8.1* Phos-2.3* Mg-2.4

imaging: 
___
CT c-spine:
1. No acute fracture of the cervical spine. 
2. Grade 1 anterolisthesis of C2 on C3 and C3 on C4 which may be 

degenerative, although this cannot be confirmed without prior 
studies. Grade 1 retrolisthesis of C4 over C5 with mild kyphosis 
and moderate canal stenosis. 
3. Moderate spinal canal stenosis at C4-5 and C5-C6, which could 
predispose the patient to cord injury in the setting of minor 
trauma. MRI is recommended for further assessment of cord or 
ligamentous injury, provided the patient has no 
contraindications to MRI. 

___
CT Head:
No acute intracranial hemorrhage or edema. No acute skull 
fracture, within the limitations of slight motion.  

___
CT abdomen/pelvis/chest:
1. Moderate to large right pneumothorax with a small component 
of 
hydropneumothorax.  
2. Large hiatal hernia containing fluid. Fluid in the entire 
esophagus, 
placing the patient at risk for aspiration. 
3. Emphysema. 
4. Posterior right rib fractures 5 through 11. 
5. Multiple compression deformities of the thoracic and lumbar 
spine as 
detailed above, age indeterminate. 
6. Extensive subcutaneous gas of the neck, abdomen, pelvis and 
right arm.  
Pneumomediastinum.  
7. Diverticulosis, no evidence of diverticulitis. 

___ EKG:
Sinus rhythm. Low QRS voltage. Consider prior inferior 
myocardial infarction. Prior anterior myocardial infarction. 
Since the previous tracing of ___ delayed R wave progression 
is more prominent but there may be no significant change. 

___ echocardiogram:
The left atrium is dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
unusually small. Left ventricular systolic function is 
hyperdynamic (EF>75%). Due to suboptimal technical quality, a 
focal wall motion abnormality cannot be fully excluded. There is 
a mid-cavitary LV systolic gradient, which increases with the 
Valsalva maneuver. Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is an anterior space which 
most likely represents a promient fat pad. 

IMPRESSION: Small, hypertrophied and hyperdynamic left ventricle 
with a mid-cavitary gradient. Moderate pulmonary hypertension

___ CXR 
No pneumothoraces are seen on either side. There is again seen a 
very large hiatal hernia which is less air-filled. There are 
bilateral pleural 
effusions, right side worse than left, which are unchanged from 
prior. There are no signs for overt pulmonary edema. There is 
demineralization of the thoracic spine with some compression 
deformities. 

microbiology: 
___ Stool Clostridium difficile culture - negative 

 
Brief Hospital Course:
The patient was admitted to the Trauma Surgical Service after 
transfer from the OSH. She was s/p fall with multiple right rib 
fractures and right pneumothorax. The chest tubes were placed to 
suction. She also had lumbar and thoracic spinal compression 
fractures which were non-operative; neurosurgery was consulted. 
She was initially admitted to the surgical trauma ICU for 
monitoring of her respiratory status. The patient was 
hemodynamically stable.

Neuro: Initially pain service was consulted regarding epidural 
anasthesia. However, that was not done, and instead the patient 
received IV morphine with good effect and adequate pain control. 
She also recieved a transdermal lidocaine patch to the chest. 
She recieved Tylenol and Toradol. On ___, she was strated on 
PCA dilaudid. When tolerating oral intake, the patient was 
transitioned to oral pain medications, namely in liquid form and 
that was easier for her to tolerate. Pain service was involved 
to manage pain. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Cardiac 
anzymes were monitored multiple times and were negative. The EKG 
was performed on ___, which was not suspicious for acute 
ischemia. The echo was done on ___, the results are detailed 
in the previous section. 

Pulmonary: Patient was admitted with the right pneumothorax and 
subcutaneous emphasema along the right lateral chest wall and 
flank extending inferiorly to about right anterior superior 
iliac spine. At the time of admission she had one chest tube 
placed and later on the same day she had a second chest tube 
placed to suction. Good pulmonary toilet, early ambulation and 
incentive spirrometry were encouraged throughout 
hospitalization. She recieved albuterol and ipratropium as 
needed for shortness of breath. Both of the two chest tube were 
removed on ___, patient experienced some 
respiratory distress on ___ she had small apical pneumothorax 
on CXR. The respiratory distress was treated with nebulizers, 
cpap and diuresis. Her repiratory status was monitored in the 
trauma ICU until ___, when she was transferred to the floor. 
Two days later she experienced respiratory distress and was 
transferred back to the ICU on ___. Subsequntly, patient was 
intubated in the ICU and chest tube was placed on the right 
side. She continued to have an air leak, the chest tube stayed 
to suction. Treatment with vancomycin and cefepime were started 
for presumed pneumonia. Patient's respiratory status improved 
and she was extubated on ___ and transferred to the floor. 

She did well on the floor, even though she had a persistent air 
leak. Attempts were made to clamp the chest tube, she initially 
did not tolerate it. The pleurodesis was done by thoracic 
surgery service at bedside. Patient tolerated it well. Several 
days later, the air leak largely disappeared, patient eventually 
tolerated clamping and chest tube to water seal for almost 48 
hours. The chest tube was then removed and patient remained in 
good respiratory status with no residual pneumothorax on chest 
x-ray. Patient recieved daily chest x-rays to monitor her right 
sided pneumothorax. 

By the time of discharge patient was on her home dose on 
supplemental oxygen, sating well over 92%.  

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated. Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary. Electrolytes were 
routinely followed, and repleted when necessary. 

Patient was kept NPO initially secondary to large hiatal hernia 
and concern for aspiration risk. She had a speech and swallow 
evaluation on ___. The recommendations were diet of thin 
liquids and pureed consistency solids, medications to be crushed 
with the liquids, one on one supervision and nutrition consult 
was recommended. Recommended diet was started following this 
evaluation. 

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. She remained afebrile. 
The sputum cultures were sent once, but contained only 
respiratory flora. Patient was treated with vancomycin and 
cefepime for presumed pneumonia. 

Stool was sent on ___ for Clostridium difficile analysis. There 
was no growth. 

Endocrine: The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly.

Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required. Her anemia was at 
baseline. 

Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible with physical therapy.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet with supplements, ambulating with assisstance, voiding, and 
pain was well controlled. Her respiratory status was much 
improved and stable, at her baseline. The patient received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
simvastatin 10 mg once daily 
albuterol
flovent
Celexa 20 mg once daily 
lisinopril 
 
Discharge Medications:
1. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID PRN  as needed 
for constipation.
Disp:*60 Tablet(s)* Refills:*0*
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) for 1 weeks.  
6. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO daily PRN  as needed for 
constipation.  
7. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 3 days: stop the taper on ___ after the last dose .  
8. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q2H (every 2 hours) as 
needed for Wheezing.  
9. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours).  
10. Acetaminophen 650 mg/20.3 mL Solution Sig: One (1) ml  PO 
TID PRN .  
11. Oxycodone 5 mg/5 mL Solution Sig: ___ ml  PO every 4 hours 
PRN  as needed for pain for 1 weeks.  
12. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
13. Guaifenesin 100 mg/5 mL Syrup Sig: Five (5) ML PO BID (2 
times a day).  
14. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
15. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
multiple right rib fractures 
right pneumothorax 
lumbar and thoracic spinal compression fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized because of the fall that resulted in your 
rib fractures and lead to the right lung pneumothorax. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

* Call or return immediately if you experience pain which is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___